US07332508B2
To a solution of 2-(piperidin-4-yl)ethanol (5.0 g, 39 mmol) in THF (60 mL) was added 1 N NaOH (60 mL). Di-tert-butyl dicarbonate (9.5 g, 44 mmol) was added and the mixture was stirred vigorously overnight. Ethyl acetate (100 mL) was added and the mixture was stirred vigorously. The phases were separated and the organic phase was washed with water and then dried (MgSO4). The mixture was filtered and the solvent was evaporated to give 9.5 g of 4-(2-hydroxyethyl)piperidine-1-carboxylic acid tert-butyl ester.

reactant | 2-(piperidin-4-yl)ethanol | 39 mmol, 5.0 g | N1CCC(CC1)CCO | C7H15NO
reactant | NaOH | 1 N, 60 mL | [OH-].[Na+]
reactant | Di-tert-butyl dicarbonate | 44 mmol, 9.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 4-(2-hydroxyethyl)piperidine-1-carboxylic acid tert-butyl ester | 9.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCO | C12H23NO3
